US06294558B1
1-(4-Bromo-2-chlorophenyl)-1-ethanone (step 1)
To a stirred solution of methylmagnesium iodide (0.82 M solution in diethylether; 113 ml, 92.4 mmol) was added a solution of 4-bromo-2-chlorobenzonitrile (10 g, 46.2 mmol) in diethylether (92 ml) dropwise, and the mixture was heated at reflux temperature for 16 hours. The mixture was cooled down to room temperature, added concentrated hydrochloric acid (50 ml), and the mixture was stirred for 5 hours. The whole was extracted with diethylether. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by flash chromatography eluting with ethyl acetate-hexane (1:10) to give title compound (7.77 g, 72% yield).

reactant | methylmagnesium iodide | 92.4 mmol, 0.82 M, 113 ml | C[Mg]I
reactant | 4-bromo-2-chlorobenzonitrile | 46.2 mmol, 10 g | BrC1=CC(=C(C#N)C=C1)Cl | C7H3BrClN
reactant | hydrochloric acid | 50 ml | Cl | ClH
reactant | diethylether | 92 ml | C(C)OCC | C4H10O
product | 1-(4-Bromo-2-chlorophenyl)-1-ethanone | 7.77 g, 72% yield | BrC1=CC(=C(C=C1)C(C)=O)Cl | C8H6BrClO
